Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.94880023662
[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8]>>[C:1][C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8],-5.28806665467
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10],4.55317788199
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.7542382973299997
[H:17].[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.96128973399
[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])[H:10].[H:7]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-4.93044240192
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.72564634057
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],3.4422646341300003
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-9.17252032
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10],1.5021124865900002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],3.39650912195
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4],6.563277036869999
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.92104108437
[C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.90357990501
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.26608216723
[H:1][C:2]([H:3])=[C:4]=[C:5]1[O:6][C:7]1=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10],2.37480250701
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],3.8327194918
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12].[H:13],4.06465975192
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12],3.35327337903
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.8850127640300007
[H:1][C:2]([H:3])([O:4])[C:12]([O:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:13])[H:14]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14],-3.59107313
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.93536858633
[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[O:10],1.57667262835
[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],7.4183149421
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],1.93443803975
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],1.52791158004
[O:1]=[O:2]>>[O:1].[O:2],5.40457079
[H:1][O:2][C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11],0.63592652618
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11],4.4496742648500005
